US07935707B2
B) ((R)-1-Piperidin-4-yl-pyrrolidin-2-yl)-methanol di-hydrochloride
A solution of 8.80 g (30.9 mmol) of 4-((R)-2-hydroxymethyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester in 200 ml of EtOH was treated at RT with 15.5 ml (62.0 mmol) of hydrochloric acid in 1,4-dioxane (4 molar) and the mixture was heated up to 100° C. After two hours, the solvents were evaporated and the residue was re-crystallized from MeOH/MeCN and Et2O to give 6.53 g (82%) of the title compound as off-white solid. MS: 185.1 (MH+).

reactant | 4-((R)-2-hydroxymethyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 30.9 mmol, 8.80 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1[C@H](CCC1)CO | C15H28N2O3
reactant | hydrochloric acid | 62.0 mmol, 15.5 ml | Cl | ClH
solvent | EtOH | 200 ml | CCO | C2H6O
solvent | 1,4-dioxane | 4 molar | O1CCOCC1 | C4H8O2
product | ((R)-1-Piperidin-4-yl-pyrrolidin-2-yl)-methanol di-hydrochloride | 6.53 g, 82% | Cl.Cl.N1CCC(CC1)N1[C@H](CCC1)CO | InChI=1S/C10H20N2O.2ClH/c13-8-10-2-1-7-12(10)9-3-5-11-6-4-9;;/h9-11,13H,1-8H2;2*1H/t10-;;/m1../s1
